US09284271B2
2-(5-(trifluoromethyl)-1H-indol-3-yl)ethanamine was prepared according to method D Step V with 3-(2-azidoethyl)-2-(triethylsilyl)-5-(trifluoromethyl)-1H-indole (0.400 g; 1.09 mmol) and triphenyl phosphine (0.427 g; 1.63 mmol) in methanol (5 mL) and tetrabutylamonium fluoride (3.26 mL, 1M) in THF (stirred for 36 hours).

reactant | 3-(2-azidoethyl)-2-(triethylsilyl)-5-(trifluoromethyl)-1H-indole | 1.09 mmol, 0.400 g | N(=[N+]=[N-])CCC1=C(NC2=CC=C(C=C12)C(F)(F)F)[Si](CC)(CC)CC | C17H23F3N4Si
reactant | triphenyl phosphine | 1.63 mmol, 0.427 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrabutylamonium fluoride | 1M, 3.26 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 2-(5-(trifluoromethyl)-1H-indol-3-yl)ethanamine | FC(C=1C=C2C(=CNC2=CC1)CCN)(F)F | C11H11F3N2
